US07229999B2
N-((R)-2-Cyclopropyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 23, using 5-bromo-6-chloro-nicotinic acid methyl ester, cyclopropylmethanol (commercially available), 4-fluorophenylboronic acid (commercially available) and 2-cyclopropyl-2-hydroxy-propylamine (commercially available) as starting materials. The two enantiomers were separated by column chromatography on chiral phase. MS (m/e): 385.3 (MH+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | cyclopropylmethanol | C1(CC1)CO | C4H8O
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 2-cyclopropyl-2-hydroxy-propylamine | C1(CC1)C(CN)(C)O | C6H13NO
product | N-((R)-2-Cyclopropyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinamide | C1(CC1)[C@@](CNC(C1=CN=C(C(=C1)C1=CC=C(C=C1)F)OCC1CC1)=O)(C)O | C22H25FN2O3
